US08183264B2
2-Amino-6-methoxymethyl-nicotinic acid
To a mixture of 2-amino-6-methoxymethyl-nicotinic acid methyl ester (2.9 g) described in Manufacturing Example 11-3, THF (30 mL), methanol (7.5 mL), and water (7.5 mL) was added lithium hydroxide monohydrate (1.2 g), which was stirred overnight at room temperature. Acetic acid (1.7 mL of) was added to the reaction mixture at the same temperature, and the solvent was evaporated under a reduced pressure. The residue was filtered through silica gel (methanol:ethyl acetate=1:3) and the solvent was evaporated under a reduced pressure, after which the residue was washed with water to obtain the titled compound (2.1 g).

reactant | 2-amino-6-methoxymethyl-nicotinic acid methyl ester | 2.9 g | COC(C1=C(N=C(C=C1)COC)N)=O | C9H12N2O3
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | methanol | 7.5 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 1.2 g | O.[OH-].[Li+]
solvent | Acetic acid | 1.7 mL | C(C)(=O)O | C2H4O2
solvent | water | 7.5 mL | O | H2O
product | 2-Amino-6-methoxymethyl-nicotinic acid | 2.1 g | NC1=C(C(=O)O)C=CC(=N1)COC | C8H10N2O3
